US08076514B2
[(R)-3-(2-tert-Butylcarbamoyl-5-chloro-phenyl)-1-(2,5-difluoro-benzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester
Using general procedure 2 with [(R)-2-(2,5-Difluoro-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester (2.5 g, 7.4 mmol) and N-tert-Butyl-4-chloro-2-methyl-benzamide (5.0 g, 22 mmol) followed by purification by silica gel flash column chromatography gives the title compound.

reactant | [(R)-2-(2,5-Difluoro-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester | 7.4 mmol, 2.5 g | C(C)(C)(C)OC(N[C@H](CC1=C(C=CC(=C1)F)F)C(N(C)OC)=O)=O | C16H22F2N2O4
reactant | N-tert-Butyl-4-chloro-2-methyl-benzamide | 22 mmol, 5.0 g | C(C)(C)(C)NC(C1=C(C=C(C=C1)Cl)C)=O | C12H16ClNO
product | [(R)-3-(2-tert-Butylcarbamoyl-5-chloro-phenyl)-1-(2,5-difluoro-benzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(CC1=C(C=CC(=C1)Cl)C(NC(C)(C)C)=O)=O)CC1=C(C=CC(=C1)F)F)=O | C26H31ClF2N2O4
